US06303600B1
Methyl 3-iodo-4-(3-methyl-but-2-enylamino)-benzoate
A solution of diisopropylamine (2.8 ml) in tetrahydrofuran (25 ml), under nitrogen, cooled to −10° C. was treated with butyl lithium in hexane (12.4 ml 1.6M). The solution was added slowly via a syringe to a cooled to solution of methyl 4-amino-3-iodobenzoate (5 g, prepared according to the procedure of M. L. Hill, Tetrahedron, 1990, 46, page 4587) in tetrahydrofuran (100 ml), under nitrogen and at −78° C. The mixture was allowed to warm to 0° C. and after stirring for a further 10 minutes the mixture was cooled to −78° C. and then treated with 4-bromo-2-methyl-2-butene (2.49 ml). The reaction mixture was allowed to warm to room temperature over 1.5 hours then poured into saturated brine (100 ml). The organic layer was separated and the aqueous phase was extracted with ethyl acetate (100 ml). the combined organic phases were evaporated and the residue was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and petroleum ether (1:9, v/v) to give the title compound (5 g).

reactant | diisopropylamine | 2.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | methyl 4-amino-3-iodobenzoate | NC1=C(C=C(C(=O)OC)C=C1)I | C8H8INO2
reactant | 4-bromo-2-methyl-2-butene | 2.49 ml | BrCC=C(C)C | C5H9Br
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 12.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | brine | 100 ml | [Cl-].[Na+].O
product | Methyl 3-iodo-4-(3-methyl-but-2-enylamino)-benzoate | 5 g | IC=1C=C(C(=O)OC)C=CC1NCC=C(C)C | C13H16INO2
